US06630004B1
Synthesis of 6-[N-(4-Nitrophenyl)amino]caproic Acid
5 g (38.11 mmol) of 6-aminocaproic acid are dissolved in 50 ml of water in the presence of 1.5 g (1 eq) of sodium hydroxide and 4.2 g (1.3 eq) of sodium bicarbonate in a 250 ml three-necked flask equipped with a reflux condenser and a thermometer. A solution of 4.9 ml (1.2 eq) of 4-fluoronitrobenzene in 50 ml of ethanol is run into the mixture, which mixture is subsequently brought to reflux (85°-90° C.) for 48 hours. The mixture is cooled and then extracted 3 times with dichloromethane. The aqueous phase is acidified to pH˜3 with 5N hydrochloric acid. A yellow precipitate is formed; the mixture is left overnight in a refrigerator. The precipitate is pulled dry and washed with water and with acetone. After drying, 9.3 g of a yellow product are obtained, i.e. a final yield of 97%.

reactant | 6-aminocaproic acid | 38.11 mmol, 5 g | NCCCCCC(=O)O | C6H13NO2
reactant | sodium hydroxide | 1.5 g, 1 eq | [OH-].[Na+]
reactant | sodium bicarbonate | 4.2 g, 1.3 eq | C([O-])(O)=O.[Na+]
reactant | 4-fluoronitrobenzene | 4.9 ml, 1.2 eq | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
solvent | water | 50 ml | O | H2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 6-[N-(4-Nitrophenyl)amino]caproic Acid | 9.3 g, yield of 97% | [N+](=O)([O-])C1=CC=C(C=C1)NCCCCCC(=O)O | C12H16N2O4
